Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-6.611380211419999
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.701757075880002
[C:4](#[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2](=[C:3]([H:5])[H:6])[H:9]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.452508032
[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.54982367369
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.444657492446
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.13215674064
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.6148899391299998
[H:13].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.50030614809
[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7]>>[C:1]#[C:2].[C:3]([H:4])[O:5][O:6][H:7],6.5494441099900005
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.66302850809
[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.06172758298
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])=[C:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-1.4495265088799998
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4].[O:5]=[C:6]([H:7])[H:8],-0.351912546211
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14],3.69450389556
[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.33048873632
[C:5][O:6][H:7].[H:1][O:2][C:3]#[C:4][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],-1.8516423414900005
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13],0.119395988429
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],3.48595074921
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]([H:3])#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1],4.65222503665
[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.914763052856
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],7.22354279
[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.348562429911
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.77693799251
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.4162481003
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.91282443961
[H:8].[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.96599712313
